US06706725B1
f) 1-{5-[3,4-bis(tert-Butyldimethylsilanyloxymethyl)-phenoxymethyl]-3-thienyl}-1-propanol
In a manner similar to that of Example 9(a), by reaction of 33 g (65 mmol) of 5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]thiophene-3-carbaldehyde with 44 mL (130 mmol) of ethylmagnesium bromide, the product is obtained in the form of a yellow oil (m=28.4 g; Y=88%).

reactant | 5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]thiophene-3-carbaldehyde | 65 mmol, 33 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC(=CS2)C=O)C=CC1CO[Si](C)(C)C(C)(C)C | C26H42O4SSi2
reactant | ethylmagnesium bromide | 130 mmol, 44 mL | C(C)[Mg]Br
product | 1-{5-[3,4-bis(tert-Butyldimethylsilanyloxymethyl)-phenoxymethyl]-3-thienyl}-1-propanol | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC(=CS2)C(CC)O)C=CC1CO[Si](C)(C)C(C)(C)C | C28H48O4SSi2
